US09388161B2
A 50-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen and charged with 1-[(2S)-6-bromo-5-(2,2-dichloroethoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (43 mg, 0.11 mmol), 1-cyclopropyl-4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (40 mg, 0.17 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (8 mg, 0.01 mmol), potassium carbonate (31 mg, 0.22 mmol), 1,4-dioxane (24 mL), and water (4 mL). The resulting mixture stirred for 15 h at 100° C. in an oil bath. After cooling to room temperature, the reaction mixture was passed a short pad of celite and concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with dichloromethane/methanol, 50:1 then 20:1) to afford (S,E)-1-(5-(2-chlorovinyloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (12 mg, 26%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.05-1.15 (m, 7H), 1.35-1.58 (m, 1H), 2.21 (s, 3H), 2.25-2.50 (m, 2H), 2.80-2.93 (m, 1H), 3.65-3.75 (m, 1H), 4.61 (s, 1H), 4.70-4.85 (m, 1H), 5.52 (d, J=4.20 Hz, 1H), 6.52 (d, J=4.20 Hz, 1H), 7.15-7.25 (m, 1H), 7.54 (d, J=8.40 Hz, 1H), 7.89 (s, 1H), 8.07 (s, 1H). MS (ESI, pos. ion) m/z 372 [M+H]+.

reactant | 1-[(2S)-6-bromo-5-(2,2-dichloroethoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 0.11 mmol, 43 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCC(Cl)Cl | C14H16BrCl2NO2
reactant | 1-cyclopropyl-4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.17 mmol, 40 mg | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | potassium carbonate | 0.22 mmol, 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 24 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.01 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 4 mL | O | H2O
product | (S,E)-1-(5-(2-chlorovinyloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 12 mg, 26% | Cl/C=C/OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC1)C(C)=O)C | C20H22ClN3O2
